US07390930B2
Preparation of 8,8,10,1 0-tetramethyl-1,5-dioxa-9-azaspiro[5.5]undecane
Use of Phosphoric Acid 77 g of triacetonamine were initially charged in 240 g of toluene together with 47 g of ethylene glycol. Subsequently, sufficient phosphoric acid (63 g) was added that the reaction mixture showed an acidic pH (≦2) when tested with a moistened indicator paper. The reaction mixture was heated to reflux temperature and water of reaction formed was removed on a water separator. After approx. 3 hours, there was less than 10% of the desired product according to the gas chromatogram. Instead, a plurality of secondary components had formed which were not investigated further.

reactant | Phosphoric Acid | 77 g | P(O)(O)(O)=O | H3O4P
reactant | triacetonamine | CC1(CC(=O)CC(N1)(C)C)C | C9H17NO
reactant | ethylene glycol | 47 g | C(CO)O | C2H6O2
reactant | phosphoric acid | 63 g | P(O)(O)(O)=O | H3O4P
reactant | water | O | H2O
reactant | toluene | 240 g | C1(=CC=CC=C1)C | C7H8
product | 8,8,10,1 0-tetramethyl-1,5-dioxa-9-azaspiro[5.5]undecane | CC1(CC2(OCCCO2)CC(N1)(C)C)C | C12H23NO2
